US08314138B2
Synthesis of 4-methyl-2-{1-[2-(methyl-phenylamino)-ethyl]-1H-pyrazol-3-yl}-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide
The title compound was prepared from methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester and methyl-phenyl amine as describe in Example 77 and isolated as a white solid (0.043 g, 54% yield). 1H NMR (400 MHz, CDCl3) δ 8.63 (bs, 1H), 8.57 (d, J=4 Hz, 1H), 7.73 (d, J=8 Hz, 1H), 7.28-7.34 (m, 1H), 7.29 (d, J=2 Hz, 1H), 7.21-7.26 (m, 2H), 6.77 (d, J=2 Hz, 1H), 6.73 (t, J=8 Hz, 1H), 6.65 (d, J=8 Hz, 2H), 6.06-6.13 (bm, 2H), 4.64 (d, J=4 Hz, 2H), 4.34 (t, J=5 Hz, 2H), 3.83 (t, J=5 Hz, 2H), 2.76 (s, 3H), 2.74 (s, 3H); MS (M+H)+=432.9; Rt=1.28 min; HRMS (M+H)+=433.17.

reactant | methanesulfonic acid 2-(3-{4-methyl-5-[(pyridin-3-ylmethyl)-carbamoyl]-thiazol-2-yl}-pyrazol-1-yl)-ethyl ester | CC=1N=C(SC1C(NCC=1C=NC=CC1)=O)C1=NN(C=C1)CCOS(=O)(=O)C | C17H19N5O4S2
reactant | methyl-phenyl amine | CNC1=CC=CC=C1 | C7H9N
product | 4-methyl-2-{1-[2-(methyl-phenylamino)-ethyl]-1H-pyrazol-3-yl}-thiazole-5-carboxylic acid (pyridin-3-ylmethyl)amide | N1=CC(=CC=C1)CNC(=O)C1=C(N=C(S1)C1=NN(C=C1)CCN(C1=CC=CC=C1)C)C | C23H24N6OS
